US04288435
(1) Preparation of N-(2-Hydroxy-5-chlorophenyl)-2-bromoacetamide
To a mixture of 2-amino-4-chlorophenol (19.50 g.) and N,N-dimethylaniline (19.90 g.) in dry acetone (200 ml.) was added dropwise bromoacetyl bromide (33.2 g.) over a period of 15 minutes under ice-cooling at below 10° C. with stirring and stirring was continued for 45 minutes at the same temperature. The reaction mixture was evaporated and to the residue were added ethyl acetate and water. The ethyl acetate layer was washed with 5% hydrochloric acid (twice), water, 5% aqueous solution of sodium bicarbonate, water (twice) and a saturated aqueous solution of sodium chloride successively, dried over magnesium sulfate, treated with activated charcoal and then evaporated. The residue was recrystallized from a mixture of ethyl acetate and diisopropyl ether to give the title compound (18.91 g.).

reactant | 2-amino-4-chlorophenol | 19.50 g | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | N,N-dimethylaniline | 19.90 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | bromoacetyl bromide | 33.2 g | BrCC(=O)Br | C2H2Br2O
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | N-(2-Hydroxy-5-chlorophenyl)-2-bromoacetamide | 18.91 g | OC1=C(C=C(C=C1)Cl)NC(CBr)=O | C8H7BrClNO2
